.include ../Transistors/RV523_NMOS.ckt
.include ../Transistors/RV523_PMOS.ckt
.include PULSED_DFF.ckt

.options TEMP = 25C
.options TNOM = 25C
.options method=gear

.param TDrise=3us-Tsetup
.param TDfall=3us+Thold

Vdd VDD 0 {vdd}
Vss VSS 0 0V

CQ VSS Q {cout}

* 1MHz clock

* slew is time from 10% to 90% => translates into slope from 0% to 100% from -slew/1.6 to slew/1.6
VC CK 0 PWL(0s 0 {1us-cslew/1.6} 0.0V {1us+cslew/1.6} {vdd} {2us-cslew/1.6} {vdd} {2us+cslew/1.6} 0 {3us-cslew/1.6} 0 {3us+cslew/1.6} {vdd})

* Set D to 1 at TDrise and to 0 at TDfall
VD D 0 PWL(0s {Va} {TDrise-dslew/1.6} {Va} {TDrise+dslew/1.6} {Vb} {TDfall-dslew/1.6} {Vb} {TDfall+dslew/1.6} {Va})

Xdut Q nQ D CK VDD VSS  PULSED_DFF

.TRAN 0.1ns 4000ns

* check the value is latched
.meas tran Qlatched FIND V(Q) at=3.5us
.meas tran clockToQ TRIG V(CK) val={vdd/2} RISE=LAST TARG V(Q) val={vdd/2} CROSS=LAST TD=2.9us
.meas tran Qslew TRIG V(Q) val={Va + (Vb-Va)*0.1} CROSS=LAST TARG V(Q) val={Va + (Vb-Va)*0.9} CROSS=LAST TD=2.9us

.end
